US03931235
4-Hydroxy-6-methyl-3-methylthio-2-pyrone
A mixture of the monosodium salt of 4-hydroxy- 6-methyl-2-pyrone (14.8 g., 0.100 mol), methyl p-toluenethiolsulfonate (20.2 g., 0.100 mol), and 2B absolute ethanol (250 ml.) was heated at reflux for 21 hours. The ethanol was removed by distillation in vacuo; on attempted trituration with water (200 ml.), an oil separated. The oil was removed and the aqueous phase extracted with chloroform (2 × 100 ml.). The oil and chloroform washings were combined, dried over anhydrous Na2SO4, and the chloroform removed by distillation in vacuo. The resulting solid product, 4.5 g. (m. 130°-136°C., 26% yield) was twice recrystallized from 2-propanol to obtain the pure product, m. 141°-141.5°. The aqueous layer was acidified with dilute HCl producing 10.0 g. (64 percent yield) of the by-product p-toluenesulfinic acid, m. 79°-85°C.

reactant | monosodium | [Na] | Na
reactant | 4-hydroxy- 6-methyl-2-pyrone | 0.100 mol, 14.8 g | OC1=CC(OC(=C1)C)=O | C6H6O3
reactant | HCl | 10.0 g | Cl | ClH
reactant | p-toluenesulfinic acid | C1(=CC=C(C=C1)S(=O)O)C | C7H8O2S
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 4-Hydroxy-6-methyl-3-methylthio-2-pyrone | 64 percent yield | OC1=C(C(OC(=C1)C)=O)SC | C7H8O3S
